US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-phenyl-3-(3-pyrrolidin-1-yl-phenyl)-piperidin-1-yl]-methanone
The title compound, MS: m/e=547.4 (M+), was prepared in accordance with the general method of example 10 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[3-(3-chloro-phenyl)-4-phenyl-piperidin-1-yl]-methanone, pyrrolidine and biphenyl-2-yl-dicyclohexyl-phosphane as ligand.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[3-(3-chloro-phenyl)-4-phenyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC=CC=C1)C1=CC(=CC=C1)Cl)(F)F | C26H20ClF6NO
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | biphenyl-2-yl-dicyclohexyl-phosphane | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-phenyl-3-(3-pyrrolidin-1-yl-phenyl)-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC=CC=C1)C1=CC(=CC=C1)N1CCCC1)(F)F | C30H28F6N2O
